US07723345B2
Sodium triacetoxyl-borohydride (1315 mg, 6.2 mmol) was added to a solution of 6-chloro-pyrazin-2-yl-amine (400 mg, 3.10 mmol) and 3-cyclopentyloxy-4-methoxy-benzaldehyde (818 mg, 3.7 mmol) in 50 ml of DCE, 1 ml of HOAc was added and the mixture was stirred overnight at 50° C., followed by addition of another 50 ml of DCE. The organic phase was washed with water, and the product was purified with column (silica gel, hexane:EtOAc 6:1) to give 50 mg of (6-chloro-pyrazin-2-yl)-(3-cyclopentyloxy-4-methoxy-benzyl)-amine, yield 10%.

reactant | Sodium triacetoxyl-borohydride | 6.2 mmol, 1315 mg | O(C(=O)C)[BH-](OC(=O)C)OC(=O)C.[Na+]
reactant | 6-chloro-pyrazin-2-yl-amine | 3.10 mmol, 400 mg | ClC1=CN=CC(=N1)N | C4H4ClN3
reactant | 3-cyclopentyloxy-4-methoxy-benzaldehyde | 3.7 mmol, 818 mg | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
solvent | DCE | 50 ml | ClCCCl | C2H4Cl2
solvent | HOAc | 1 ml | CC(=O)O | C2H4O2
solvent | DCE | 50 ml | ClCCCl | C2H4Cl2
product | (6-chloro-pyrazin-2-yl)-(3-cyclopentyloxy-4-methoxy-benzyl)-amine | 50 mg, yield 10% | ClC1=CN=CC(=N1)NCC1=CC(=C(C=C1)OC)OC1CCCC1 | C17H20ClN3O2
